US04307094
7.02 g (0.033 mol) of methyl 2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate and 9 ml of 40% aqueous formaldehyde were heated on a steam-bath for 4.5 hours. The mixture was evaporated in vacuo to give a colourless oil which was crystallized from dichloromethane/hexane, there being obtained 3.97 g (50%) of methyl 2-hydroxymethyl-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate of melting point 123°-125° C.

reactant | methyl 2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate | 0.033 mol, 7.02 g | O=C1NC(N2N1CC=CC2C(=O)OC)=O | C8H9N3O4
reactant | formaldehyde | 9 ml | C=O | CH2O
product | methyl 2-hydroxymethyl-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate | 3.97 g, 50% | OCN1C(N2N(CC=CC2C(=O)OC)C1=O)=O | C9H11N3O5
